US05015758
Preparation of 3-(1-adamantyl)-4-methoxybenzoic acid
In a 100 ml three-necked flask, and under a nitrogen environment, are placed 1 g of 1-acetoxyadamantane and 50 ml of n-heptane. After dissolution, 0.25 g of concentrated sulfuric acid is added drop by drop at a temperature of approximately 22° C. and 0.783 g of 4-methoxybenzoic acid is poured in slowly. After leaving the mixture well agitated for 48 hours, 50 ml of denatured ethanol are added and the insoluble material is filtered Concentration of the filtrate volume to three quarters yields a solid white precipitate which is filtered with sintered glass. It is dried in a vacuum oven for 24 hours at 30° C. and 0.680 g of expected raw product was collected (Melting point: 245°-246° C.).

reactant | 1-acetoxyadamantane | 1 g | C(C)(=O)OC12CC3CC(CC(C1)C3)C2 | C12H18O2
reactant | n-heptane | 50 ml | CCCCCCC | C7H16
reactant | sulfuric acid | 0.25 g | S(O)(O)(=O)=O | H2O4S
reactant | 4-methoxybenzoic acid | 0.783 g | COC1=CC=C(C(=O)O)C=C1 | C8H8O3
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-(1-adamantyl)-4-methoxybenzoic acid | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C(=O)O)C=CC2OC | C18H22O3
